US08227613B2
B) 3-Methyl-5-(3-trifluoromethyl-phenyl)-pyridine-2-carboxylic acid
To a solution of 1.00 g (3.4 mmol) of 3-methyl-5-(3-trifluoromethyl-phenyl)-pyridine-2-carboxylic acid methyl ester in 40 ml of THF/MeOH (1:1) was added 8.47 ml (8.5 mmol) of lithium hydroxide solution (1 molar in water) and the reaction mixture was stirred at RT. After 20 hours, the solvents were evaporated and the residue poured into crashed ice, the pH was adjusted to 1-2 with HCl 1N and the reaction mixture was extracted twice with EtOAc; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by re-crystallization from CH2Cl2/heptane to give 0.94 g (99%) of the title compound as colorless solid. MS: 280.0 (M−H−).

reactant | 3-methyl-5-(3-trifluoromethyl-phenyl)-pyridine-2-carboxylic acid methyl ester | 3.4 mmol, 1.00 g | COC(=O)C1=NC=C(C=C1C)C1=CC(=CC=C1)C(F)(F)F | C15H12F3NO2
reactant | lithium hydroxide | 8.5 mmol, 1 molar, 8.47 ml | [OH-].[Li+]
solvent | THF MeOH | 40 ml | C1CCOC1.CO
product | 3-Methyl-5-(3-trifluoromethyl-phenyl)-pyridine-2-carboxylic acid | 0.94 g, 99% | CC=1C(=NC=C(C1)C1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H10F3NO2
